US07399812B2
Preparation of 2,2-di-n-butyl-1-methoxy-3-[(tert-butyidimethylsilyl)oxy]-propane
According to the procedure as described in Example 8,2,2-di-n-butyl-1-methoxy-3-[(tert-butyldimethylsilyl)oxy]propane was prepared from intermediate 2,2-di-n-butyl-3-methoxy-1-propanol and reagent tert-butyidimethylsilyl chloride.

reactant | 2,2-di-n-butyl-3-methoxy-1-propanol | C(CCC)C(CO)(COC)CCCC | C12H26O2
reactant | tert-butyidimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 2,2-di-n-butyl-1-methoxy-3-[(tert-butyidimethylsilyl)oxy]-propane | C(CCC)C(COC)(CO[Si](C)(C)C(C)(C)C)CCCC | C18H40O2Si
